US09371320B2
D) methyl 4-(4-bromo-3-cyclopentyl-7-methoxy-1H-pyrazolo[3,4-c]pyridin-1-yl)thiophene-2-carboxylate
A suspension of 4-bromo-3-cyclopentyl-7-methoxy-1H-pyrazolo[3,4-c]pyridine (100 mg), methyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)thiophene-2-carboxylate (181 mg), copper(II) acetate (73.6 mg) and pyridine (37.4 mg) in DMF (10 mL) was stirred at room temperature for 4 days. To the reaction mixture was added water, and the mixture was extracted with ethyl acetate. The organic layer was washed with water, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (65 mg).

reactant | 4-bromo-3-cyclopentyl-7-methoxy-1H-pyrazolo[3,4-c]pyridine | 100 mg | BrC1=C2C(=C(N=C1)OC)NN=C2C2CCCC2 | C12H14BrN3O
reactant | methyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)thiophene-2-carboxylate | 181 mg | CC1(OB(OC1(C)C)C=1C=C(SC1)C(=O)OC)C | C12H17BO4S
reactant | pyridine | 37.4 mg | N1=CC=CC=C1 | C5H5N
reactant | water | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
catalyst | copper(II) acetate | 73.6 mg | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | methyl 4-(4-bromo-3-cyclopentyl-7-methoxy-1H-pyrazolo[3,4-c]pyridin-1-yl)thiophene-2-carboxylate | 65 mg | BrC1=C2C(=C(N=C1)OC)N(N=C2C2CCCC2)C=2C=C(SC2)C(=O)OC | C18H18BrN3O3S
